US05109004
Bromine (35mg) was added to a stirred solution of 1-(2-chloro-6-cyano-4-trifluoromethylphenyl)-4-trifluoromethylpyrimidin-6-one (70mg) and sodium acetate trihydrate (77mg) in acetic acid (3.5ml). After stirring for 6 hours, the reaction mixture was allowed to stand overnight, whereupon the solvent was evaporated under reduced pressure. The residual solid was dissolved in ethyl acetate and washed with water, followed by aqueous sodium bicarbonate solution and finally brine. After drying over anhydrous magnesium sulphate the solvent was evaporated under reduced pressure to give 1-(2-chloro-6-cyano-4-trifluoromethylphenyl)-3-bromo-4-trifluoromethylpyrimidin-6-one as a colourless solid.

reactant | Bromine | 35mg | BrBr | Br2
reactant | 1-(2-chloro-6-cyano-4-trifluoromethylphenyl)-4-trifluoromethylpyrimidin-6-one | 70mg | ClC1=C(C(=CC(=C1)C(F)(F)F)C#N)N1C=NC(=CC1=O)C(F)(F)F | C13H4ClF6N3O
reactant | sodium acetate trihydrate | 77mg | O.O.O.C(C)(=O)[O-].[Na+]
solvent | acetic acid | 3.5ml | C(C)(=O)O | C2H4O2
product | 1-(2-chloro-6-cyano-4-trifluoromethylphenyl)-3-bromo-4-trifluoromethylpyrimidin-6-one | ClC1=C(C(=CC(=C1)C(F)(F)F)C#N)N1CN(C(=CC1=O)C(F)(F)F)Br | C13H5BrClF6N3O
